US08610345B2
A mixed solution of 3.5 g of 1-bromo-6-(4-chlorophenyl)pyrene, 1.6 g of 4-methylphenylboronic acid, 4.9 g of tripotassium phosphate, 0.75 g of tetrabutylammonium bromide, 52 mg of palladium acetate and 30 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 3 hours. The solution was cooled to room temperature and 100 ml of water was poured into the solution, followed by filtration. The resulting solid was dissolved in 100 ml of dichloromethane and then filtered through Celite. The filtrate was evaporated, and then the resulting solid was washed with 30 ml of ethyl acetate and vacuum-dried to obtain 2.6 g of 1-(4-methylphenyl)-6-(4-chlorophenyl)pyrene. Next, a mixed solution of 2.6 g of 1-(4-methylphenyl)-6-(4-chlorophenyl)pyrene, 1.4 g of carbazole, 820 mg of sodium t-butoxide, 145 mg of tri-t-butylphosphine tetrafluoroborate, 320 mg of bis(dibenzylideneacetone)palladium and 50 ml of m-xylene was heated and stirred under a nitrogen gas stream at 140° C. for 6 hours. The solution was cooled to room temperature, filtered through Celite and then concentrated by evaporation. The resulting solid was purified by silica gel chromatography and then vacuum-dried to obtain 2.3 g of a white solid. 1H-NMR analytical results of the resulting powder are as follows and reveal that the resulting white solid is compound [29].

reactant | 1-bromo-6-(4-chlorophenyl)pyrene | 3.5 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl | C22H12BrCl
reactant | 4-methylphenylboronic acid | 1.6 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | tripotassium phosphate | 4.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.75 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 1-(4-methylphenyl)-6-(4-chlorophenyl)pyrene | 2.6 g | CC1=CC=C(C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl | C29H19Cl
